US05852017
e) Preparation of N-(2-chloro-4,5-diaminophenyl)pyrrole
A solution 1.4 g (4.8 mmol) of N-(2-chloro-4,5-diacetamidophenyl)pyrrole and 0.4 g (9.8 mmol) of potassium hydroxide in 25 ml of ethylene glycol was stirred at 60° C. for 30 minutes. The reaction mixture was then poured into water, extracted with ethyl acetate and worked up.

reactant | N-(2-chloro-4,5-diacetamidophenyl)pyrrole | 4.8 mmol, 1.4 g | ClC1=C(C=C(C(=C1)NC(C)=O)NC(C)=O)N1C=CC=C1 | C14H14ClN3O2
reactant | potassium hydroxide | 9.8 mmol, 0.4 g | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | N-(2-chloro-4,5-diaminophenyl)pyrrole | ClC1=C(C=C(C(=C1)N)N)N1C=CC=C1 | C10H10ClN3
